Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Penicillins / Vancomycin Analogues / Cefazolin / 
Famotidine / Cimetidine / Nitroimidazole Derivatives / Iron 
Dextran Complex / Iodine
 
Attending: ___.
 
Chief Complaint:
3 weeks of abdominal pain and intermittent nausea/vomiting
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy with lysis of adhesions,
biopsy of peritoneal and omental implants and loop ileostomy
creation.
NG tube placement

 
History of Present Illness:
___ hx gastroparesis/severe esophageal dysmotility on
longstanding TPN with a history of pseudoobstruction now with 
3wk
nonfocal abdominal pain, minimal PO intake, change ___ bowel
habits, intermittent nausea/emesis presenting to OSH with CT
concerning for new partially obstructing transverse colon mass
and ascites.

Chronic constipation with formed BM q2-3days with intermittent
diarrhea, now with intermittent nausea, progressively worsening
abdominal distention/discomfort since ___.  Over past 72 hours,
increasing nausea, distention and cessation of bowel function.
Last BM/flatus ~48hours prior to presentation.  Pt also notes
change ___ bowel habits, caliber of stool with pencil-like stools
over preceding ___ months. Denies unintentional weight loss.

Initially presented to OSH with copious emesis and CT scan
concerning for partial large bowel obstruction.  Noted to
follow-up at ___ for chronic parenteral nutrition and
subsequently transferred.

Of note, last colonoscopy ___ (___) unremarkable. Interval
CT scan with similar narrowing noted ___ transverse colon though
without concern for obstructing mass or ascites.

___ ED, pt complaining of nausea, Afebrile and VSS, scaphoid 
abdomen, TTP
lower quadrants without rebound, distended with positive 
tympany,
no palpable masses.  Unremarkable labs.  Preliminary review of
OSH imaging notable for concern of soft tissue density partially
obstructing transverse colon without pneumatosis or free air.  
No
prominent mesenteric adenopathy, no notable hepatic lesions.  

 
Past Medical History:
PMH: Gastroparesis, psuedoobstruction, SVC thrombosis, type 2
diabetes treated with insulin ___ TPN, osteopenia, Wolf ___
White, mitral valve prolapse

PSH: Pyloroplasty ___ ?BWH), ___ myotomy ___ ___,
Feeding J-tube and G-tube (both have been removed), cervical
fusion, lumbar fusion, cholecystectomy ___, benign growth
removal from elbow, angioplasty ___ ___ and ___ for SVC
thrombosis

 
Social History:
___
Family History:
Colorectal cancer both father and brother
 
Physical Exam:
ADMITTING EXAM
VS: T 98.7, HR 86, BP 132/76, RR 16, SaO2 100%rm air
GEN: NAD, A/Ox3, thin-appearing
HEENT: EOMI, MMM
CV: RRR
PULM: CTAB
BACK: No CVA tenderness
ABD: soft, scaphoid abdomen, distended/tympanitic, +rebound L>R,
no guarding, no hepatosplenomegaly
PELVIS: minimal stool ___ rectal vault, guaiac +
EXT: WWP, distal pulses intact

DISCHARGE EXAM
VS: T 97.7 BP 100-124/48-72 HR ___ RR ___ O2 Sat 100%RA BG 
92-182
I: 1200/GU 825 NGT 600/ GI 150 I: 3000/GU 2100 NGT 1000 GI 700
GENERAL: NAD
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
nontender supple neck, no LAD, no JVD.  NGT to suction, draining 
greenish fluid 
CARDIAC: RRR, S1/S2, soft systolic murmur
LUNG: CTAB no use of accessory muscles
ABDOMEN: mildly distended, BS present, mild tenderness ___ lower 
quadrants without rebound or guarding, no hepatosplenomegaly, 
osteomy bag ___ place with dark brown/bile like fluid - ostomy 
site with pink granulation tissue, midline bandage c/d/i 
(staples removed from inferior aspect of incision), and incision 
without drainage, erthyma or pus and appears to be approximated 
well and healing.
M/S: moving all extremities well. no cyanosis, clubbing, or 
edema.  Tenderness over mid thoracic spine.
PULSES: 2+ DP pulses bilaterally
NEURO: CN II-XII intact, strength ___ bilaterally ___ UE and ___. 
Sensation to light touch intact.

 
Pertinent Results:
CT abd/pel (OSH - prelim):  soft tissue density obstructing
transverse colon without pneumatosis or free air.  ascites. no
prominent mesenteric adenopathy, no notable hepatic lesions. 

___ 04:13AM   WBC-6.4 RBC-4.79 HGB-12.6 HCT-40.8 MCV-85 
MCH-26.3* MCHC-30.8* RDW-15.5
___ 04:13AM   NEUTS-76.7* LYMPHS-15.8* MONOS-6.8 EOS-0.3 
BASOS-0.4
___ 04:13AM   PLT COUNT-230#
___ 04:13AM   ___ PTT-27.2 ___ 
04:13AM   ALBUMIN-3.9
___ 04:13AM   LIPASE-31
___ 04:13AM   ALT(SGPT)-8 AST(SGOT)-15 ALK PHOS-78 TOT 
BILI-0.5
___ 04:13AM   GLUCOSE-128* UREA N-21* CREAT-0.6 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-21* ANION GAP-16
___ 04:33AM   LACTATE-1.7
___ 09:30AM URINE  RBC-0 WBC-6* BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 09:30AM URINE  MUCOUS-OCC
___ 09:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-150 KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-TR
___ 09:30AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 03:50PM   CEA-1.3 CA125-162*

___ Preop Chest x-ray:
 The ___ catheter is visualized with tip ___ SVC. The lungs 
are 
hyperexpanded with some blunting of the CP angles but no 
effusion. Compared to the reference exam, the effusions have 
decreased. There is no focal infiltrate. Cardiac and mediastinal 
silhouettes are normal. 
___ pathology
1.  Peritoneal implant (A):
Metastatic adenocarcinoma, consistent with gynecologic origin; 
see note.
2.  Omental implant (B-E):
Metastatic adenocarcinoma, consistent with gynecologic origin.
Note: The tumor cells stain positively for cytokeratin cocktail, 
CK7, ___, and WT-1.  They are negative for CK20, CDX2, 
calretinin, B72.3, and are null for p53.  Controls are adequate. 
 
___ Pathology
Peritoneal fluid, cell block:  Positive for malignant cells, 
consistent with mucinous adenocarcinoma; see note; also see 
cytology (C12-15047P).  
Note: Tumor cells are immunoreactive for CK7, WT-1, ___, and 
EMA, and very focally positive for estrogen receptor and PAX-2.  
They are negative for CK20, CDX-2, mammoglobin, GCDFP, 
progesterone receptor, TTF-1, calretinin, desmin, D2-40, 
absorbed CEA, and B72.3.  This immunoprofile is nonspecific, but 
is consistent with an epithelial phenotype and raises the 
possibility of an ovarian primary. A preliminary diagnosis was 
e-mailed to Dr. ___ on ___ at 2:___.
___ Peritoneal washing: 
___ Positive for malignant cells, consistent with mucinous 
adenocarcinoma.
KUB Upright
Nonspecific bowel gas pattern with residual oral contrast ___ the 

ascending colon.  Partial or early bowel obstruction cannot be 
excluded on this study.  If there is clinical concern for early 
bowel obstruction, CT can be considered. 
___ CT abd and pelvis 
1.  Dilated proximal small bowel with transition point proximal 
to the ostomy, concerning for small bowel obstruction. CT 
appearance suggests prior gastrojejunostomies with dilation of 
both efferent and afferent limbs proximal to the transition 
point ___ the mid to low abdomen. 
2.  Moderate amount of ascites with peritoneal enhancement and 
omental 
stranding consistent with known peritoneal carcinomatosis. 
3.  Esophageal catheter tip terminating just below the 
gastroesophageal 
junction.  Advancing the catheter is recommended. 
4.  Air ___ the bladder, likely secondary to recent 
instrumentation, but 
clinical correlation is recommended. 
5.  Dense retained contrast ___ the colon and stool ___ the 
rectum. 
6.  Narrowing of the transverse colon with masslike mural 
thickening. 
CT Chest with contrast ___ 
1.  Multiple areas of subpleural nodularity may represent 
scarring, but 
malignancy is not excluded.  Recommend 3-month follow-up CT to 
assess for 
stability. 
2.  Presbyesophagus. 
CXR ___ 
___ catheter tip is at the level of mid low SVC.  Heart size 
and 
mediastinum are unremarkable.  The NG tube tip is ___ the 
stomach.  Lungs are essentially clear except for fibronodular 
opacities ___ the apices.  No interval development of pleural 
effusion or pneumothorax is seen. 
CT abd/pelvis ___
IMPRESSION: 
1.  No evidence of acute abdominal process to explain the 
patient's pain 
without evidence of obstruction given free flow of contrast into 
the distal 
small bowel, though persistent relative distention of the 
proximal versus 
distal small bowel is noted. 
2.  Stranding ___ the mesentery and omentum, compatible with 
known metastatic 
ovarian cancer with changes from prior gastrojejunostomy and 
diverting loop 
ileostomy noted. 
3.  Moderate volume of free pelvic fluid. 

___ and ___  URINE CULTURE-ESCHERICHIA COLI >100,000
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------     2 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

___ 8:29 pm SWAB     Site: ABDOMEN
      Source: abdominal incision drainage. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    1 COLONY ON 1 
PLATE. 

   ANAEROBIC CULTURE (Final ___: 
      ANAEROBIC GRAM POSITIVE COCCUS(I).    SPARSE GROWTH. 
         (formerly Peptostreptococcus species) NO FURTHER WORKUP 
WILL BE
         PERFORMED. 
___  URINE CULTURE-MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.
___  URINE CULTURE-MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.
___  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-FINAL INPATIENT 
___  BLOOD CULTURE -FINAL 
___  BLOOD CULTURE -FINAL 

DISCHARGE LABS

___ 05:21AM BLOOD WBC-4.9 RBC-3.42* Hgb-9.0* Hct-29.2* 
MCV-85 MCH-26.3* MCHC-30.9* RDW-15.7* Plt ___
___ 05:21AM BLOOD Neuts-72.4* ___ Monos-5.5 Eos-1.8 
Baso-0.4
___ 05:21AM BLOOD Glucose-129* UreaN-20 Creat-0.5 Na-135 
K-3.8 Cl-101 HCO3-27 AnGap-11
___ 05:21AM BLOOD Albumin-PND Calcium-8.0* Phos-3.0 Mg-2.1
___ 04:51PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 04:51PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
 
Brief Hospital Course:
___ year old female with pmhx of gastroparesis requiring ___ years 
of TPN, Type 2 Diabetes, and pseudo-obstruction presenting with 
abdominal carcinomatosis with primary likely mucinous 
adenocarcinoma of the ovary now s/o ileostomy on ___ with 
continues N/v with NG ___ place. 

SURGICAL COURSE ___
Ms. ___ was admitted on ___ under the Acute Care 
Surgical service. She was taken urgently to the operating room 
for an exploratory laparotomy with lysis of adhesions,biopsy of 
peritoneal and omental implants and loop ileostomy creation. 
Please see operative note by Dr. ___ details of the 
procedure. The patient was awakened, extubated, and transferred 
to PACU ___ satisfactory condition. She was later transferred to 
the surgical floor ___ stable condition.

She was kept NPO postoperatively with IV fluids. TPN was 
continued and blood sugars were monitored and controlled with an 
insulin sliding scale. A nasogastric tube was left ___ place 
postoperatively and removed on POD#2. On POD#3 she began having 
ileostomy output. On POD#4 her diet was advanced as tolerated to 
her baseline oral intake and her TPN was continued. Her 
ileostomy output began to pick up to about 1 liter for 24 hours. 
On POD#5 she appeared more distended with minimal ileostomy 
output and nausea and her diet was decreased to clear liquids.
  
A foley catheter was placed for urine output monitoring 
periooperatively and removed on POD#3 at which time she voided 
without difficulty. However, on POD#4 she was noted to have 
increased urgency and frequency and a urinalysis was obtained 
which was positive and she was started on 3 days of cipro while 
cultures were pending.

Her vital signs were routinely monitored and she remained 
afebrile and hemodynamically stable. She was placed on standing 
IV lopressor for history of WPW syndrome. She was initially 
restarted on her home dose of coumadin on POD#2; however the 
decision was made to hold her coumadin per Dr. ___ a 
history of maintaining a therapeutic INR and she was placed on 
SC heparin TID for prophylaxis. Incentive spirometry and 
pulmonary toileting were encourged. Her pain level was routinely 
assessed and medications were adjusted as needed. She reported 
having intermittent muscle spasms and was started on PO 
tizanidine. On POD#4 she was transitioned from IV pain 
medication to PO.

Physical therapy was consulted to evaluate her mobility and she 
was encouraged to mobilize out of bed.

Tumor markers were sent on admission and Ca-125 came back 
significantly elevated at 162, likely consistent with ovarian 
cancer. This was relayed to both the patient and her daughter. 
CEA was within normal limits at 1.3 and ___ was 7.  
Pathology results returned and were consistent with ovarian 
cancer. 

MEDICINE COURSE ___

#  Obstruction due to metastatic disease: The patient presented 
after loop ileostomy with NGT ___ place, draining bilious fluid 
and tolerating only minimal clear fluids. She developed nausea 
with clamping of the NGT on ___ and it was placed back 
on suction, draining ~ 500-1000 cc ___ 24 hours. Abd is soft, + 
BS and ileostomy is draining brownish fluid.  Due to the burden 
of her disease, a G tube would be technically difficult at this 
time.  ___ order to reduce the dysmotility issues caused by the 
metastatic disease and her requirement for the NGT, we have 
proceeded with carboplatin to debulk on 3 week cycle, received 
one cycle while ___ house. She did have nausea but it responded 
well to Zofran and Compazine. The patient had spasms of pain ___ 
her lower pelvis and ___ her lower back, this was ___ontrolled with morphine IV. Transition to long-acting or PO 
medication is advised; at the time of discharge, this was not 
done as the patient's pain medication requirement was still 
fluctuating day to day (as much as 12mg IV morphine ___ 24 hours 
and as little as 6mg IV morphine ___ 24 hours within the days 
prior to discharge, so if her pain requirement increases 
substantially then this may be worth investigating).

# E. Coli UTI: Cultures returned on ___ with E.coli with multi 
drug resistance, but sensitivity to macrodantin (avoided because 
patient's PO absorption is likely poor), and cephalosporins 
(avoided because patient reports history of hives to 
cephalosporins and penicillins) so meropenem was initiated on 
___ and planned for 10 day course. Prior to this, the patient 
was treated with 5 days of PO Cipro, then transitioned to IV 
Cipro on Day 6 out of concern for malabsorption. The patient was 
symptomatic, with urge, frequency and dysuria despite days of 
treatment, and urine cultures x2 were contaminated. Frequency 
and urgency may be also ___ burden of pelvic metastatic disease.

# Contrast extravasation:  Of note, she did have extravasation 
of IV contrast with CT done on ___, plastics was consulted and 
the patient had her arm elevated with complete resolution of the 
area of erythema and edema on the R UE, distal to antecubital 
fossa.  Plastics had no further recommendations.

# Back Pain: she notes that her low back pain seems to be 
positional, over the muscle without any pain over the spinous 
process- ___ addition ovarian CA is less likely to cause mets to 
bone, so no need to for further image at this time. Will cont to 
close monitor and treat her pain. ___ consider obtain thoracic 
spine MRI if symptoms persist or worsen

# SVC Thrombosis: port initially was withdrawing only 
sluggishly, but improved to normal withdrawal after TPA dwelled 
for 12 hours. Changed from warfarin to Lovenox BID

#  Mucinous Adenocarcinoma of the Ovary: patient says that her 
goal is to get home. She is not getting Taxol out of concern for 
wound healing, but she did receive one dose of Carboplatin, plan 
is for taxol ___ the future.

CHRONIC CARE
#  Type II Diabetes: Not truly diagnosed and BG has consistently 
been less than 150 while ___ house.

# Wolf ___ White: pt has intermittent tachycardia, per her 
report, which has been completely controlled with metoprolol, so 
this was cont while ___ house. 

TRANSITIONS ___ CARE
CODE: Confirmed full
EMERGENCY CONTACT:  ___, daughter and HCP, 
___
ISSUES TO DISCUSS AT FOLLOW UP:
- f/u with Surgery and Oncology
- UTI resolution and finish meropenem course
- back pain resolution (?MRI thoracic spine)
- consider removal of NGT when appropriate - measure output, 
please tell MD when output is less than 30cc per day. Clamp the 
NGT and observe overnight. If patient has recurrence of nausea, 
unclamp. If she does well, ___ the am, unclamp and measure the 
output ___ the am, if it is less than 30cc, consider 
discontinuation with MD.
- continue to give TPN and follow electrolytes
- care of ostomy 
- removal of staples
- monitor pain control and pain medication use
PENDING STUDIES none
 
Medications on Admission:
Coumadin ___,
Metoprolol succinate 25 mg daily, 
TPN 

 
Discharge Medications:
1. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
2. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 
3. wig  Sig: One (1)   once: ICD9 Code 183.0.
Disp:*1 wig* Refills:*0*
4. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
Tunneled Access Line (e.g. ___), heparin dependent: Flush 
with 10 mL Normal saline followed by Heparin as above daily and 
PRN per lumen. 
5. enoxaparin 60 mg/0.6 mL Syringe Sig: One (1) syringe 
Subcutaneous Q12H (every 12 hours).
Disp:*60 syringe* Refills:*0*
6. prochlorperazine maleate 5 mg Tablet Sig: ___ Tablets PO 
three times a day as needed for nausea.
Disp:*21 Tablet(s)* Refills:*0*
7. meropenem 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q6H (every 6 hours) for 9 days.  
8. Zofran 2 mg/mL Solution Sig: ___ mg Intravenous every eight 
(8) hours as needed for nausea: Discontinue use if contributing 
to cramping/constipation.  
9. Ativan 0.5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for nausea.  
10. Morphine Sulfate ___ mg IV Q4H:PRN pain 
hold for sedation, RR<12 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Mucinous adenocarcinoma
Peritoneal Carcinomatosis
Small and Large bowel obstruction
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ were admitted to the hospital with abdominal pain and 
nausea. ___ had an abdominal CT scan at the outside hospital 
which showed an obstructing soft tissue mass ___ your colon. ___ 
were therefore transferred here to ___ and taken to the 
operating room for an exploratory laparotomy and creation of 
diverting loop ileostomy. Extensive tumor load was seen ___ the 
operating room and biposies were taken and sent for pathology, 
which showed ovarian cancer, so ___ were transferred to the 
oncology service and chemo was started. Your symptoms were 
improved so ___ are being discharged home to continue to receive 
your chemo.

___ may resume a liquid diet as tolerated. ___ will continue on 
your TPN. It is important that ___ keep well hydrated  

ACTIVITY:
 
Do not drive until ___ have stopped taking pain medicine and 
feel ___ could respond ___ an emergency.
___ may climb stairs. 
___ may go outside, but avoid traveling long distances until ___ 
see your surgeon at your next visit.
Don't lift more than ___ lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
___ will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when ___ 
can resume tub baths or swimming.
 
HOW ___ MAY FEEL: 
 
___ may feel weak or "washed out" for 6 weeks. ___ might want to 
nap often. Simple tasks may exhaust ___ may have a sore throat because of a tube that was ___ your 
throat during surgery.
___ might have trouble concentrating or difficulty sleeping. ___ 
might feel somewhat depressed.
___ could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away ___ a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
Your incision may be slightly red around the stitches or 
staples. This is normal.
___ may gently wash away dried material around your incision.
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless ___ were told 
otherwise.
___ may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
___ may shower. As noted above, ask your doctor when ___ may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent. 
 
PAIN MANAGEMENT:
It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If ___ find the pain is 
getting worse instead of better, please contact your surgeon.
___ will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. Do not take it more frequently than prescribed. Do 
not take more medicine at one time than prescribed.
Your pain medicine will work better if ___ take it before your 
pain gets too severe.
Talk with your surgeon about how long ___ will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
If ___ are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when ___ cough 
or when ___ are doing your deep breathing exercises.
If ___ experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change ___ nature or quality of your pain
 
MEDICATIONS:
Take all the medicines ___ were on before the operation just as 
___ did before, unless ___ have been told differently.
If ___ have any questions about what medicine to take or not to 
take, please call your surgeon.
 
DANGER SIGNS:
Please call your surgeon if ___ develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase ___ drainage from the wound

Please note the following changes to your medications:
- START Lovenox.
- START Meropenem
- STOP Warfarin
- START Morphine as needed for pain
- START compazine, ativan, zofran as needed for nausea
Dear ___ were admitted to the hospital with abdominal pain and 
nausea. ___ had an abdominal CT scan at the outside hospital 
which showed an obstructing soft tissue mass ___ your colon. ___ 
were therefore transferred here to ___ and taken to the 
operating room for an exploratory laparotomy and creation of 
diverting loop ileostomy. Extensive tumor load was seen ___ the 
operating room and biposies were taken and sent for pathology, 
which showed ovarian cancer, so ___ were transferred to the 
oncology service and chemo was started. Because of the amount of 
tumor, this caused an obstruction of your intestine.  ___ had an 
NG tube placed to decompress your intestines.  This will need to 
remain ___ place until we see if the chemotherapy can shrink the 
tumor enough to allow your intestines to resume function.  ___ 
can take small amounts of ice chips with the NG tube ___ but ___ 
will continue on your TPN for nutrition.

ACTIVITY:
 
Do not drive until ___ have stopped taking pain medicine and 
feel ___ could respond ___ an emergency.
___ may climb stairs. 
___ may go outside, but avoid traveling long distances until ___ 
see your surgeon at your next visit.
Don't lift more than ___ lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
___ will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when ___ 
can resume tub baths or swimming.
 
HOW ___ MAY FEEL: 
 
___ may feel weak or "washed out" for 6 weeks. ___ might want to 
nap often. Simple tasks may exhaust ___ may have a sore throat because of a tube that was ___ your 
throat during surgery.
___ might have trouble concentrating or difficulty sleeping. ___ 
might feel somewhat depressed.
___ could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away ___ a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
Your incision may be slightly red around the stitches or 
staples. This is normal.
___ may gently wash away dried material around your incision.
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless ___ were told 
otherwise.
___ may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
___ may shower. As noted above, ask your doctor when ___ may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent. 
 
PAIN MANAGEMENT:
It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If ___ find the pain is 
getting worse instead of better, please contact your surgeon.
___ will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. Do not take it more frequently than prescribed. Do 
not take more medicine at one time than prescribed.
Your pain medicine will work better if ___ take it before your 
pain gets too severe.
Talk with your surgeon about how long ___ will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
If ___ are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when ___ cough 
or when ___ are doing your deep breathing exercises.
If ___ experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change ___ nature or quality of your pain
 
MEDICATIONS:
Take all the medicines ___ were on before the operation just as 
___ did before, unless ___ have been told differently.
If ___ have any questions about what medicine to take or not to 
take, please call your surgeon.
 
DANGER SIGNS:
Please call your surgeon if ___ develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase ___ drainage from the wound

Please note the following changes to your medications:
- START Lovenox.
- START Meropenem
- STOP Warfarin
- START Morphine as needed for pain
- START compazine, ativan, zofran as needed for nausea
 
Followup Instructions:
___